US06051712
In an analogous manner to that described in Example 22(i), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate with 2-bromomethylnaphthalene there was obtained tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(naphthalen-2-ylmethoxymethyl)-phenyl]-piperidine-1-carboxylate as a colourless oil, Rf : 0.31 (SiO2, hexane:ethyl acetate=2:1).

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-(4-hydroxymethyl-phenyl)-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)CO)C(=O)OC(C)(C)C | C17H25NO4
reactant | 2-bromomethylnaphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-3-(naphthalen-2-ylmethoxy)-4-[4-(naphthalen-2-ylmethoxymethyl)-phenyl]-piperidine-1-carboxylate | C1=C(C=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)COCC1=CC2=CC=CC=C2C=C1)C(=O)OC(C)(C)C | C39H41NO4
